US09340497B2
Step (a-1): (2S,2S′) 4,4′-disulfanediylbis(2-(benzyloxycarbonylamino)butanoic acid) F
L-Homocystine (200.0 g, 745.5 mmol, 1.0 eq.) is suspended in THF (1000 mL, 5.0 vol.) and cooled to 5-10° C. Addition of 20% sodium hydroxide (521.7 mL, 626.2 g, 125.25 g at 100%, 3.13 mmol, 4.2 eq.) is followed by addition of benzyl chloroformate (220.3 mL, 267 g, 1565.5 mmol, 2.1 eq.). Conversion is complete after a night at room temperature (L-Homocystine<1%). Extractions and washings of the organic layer with water leads to a yellow oil which is isolated in quantitative yield, and which slowly crystallizes as a yellowish solid at room temperature.

reactant | L-Homocystine | 745.5 mmol, 200.0 g, 1.0 eq. | C(C[C@@H](C(=O)O)N)SSCC[C@@H](C(=O)O)N | C8H16N2O4S2
reactant | sodium hydroxide | 3.13 mmol, 521.7 mL, 626.2 g, 4.2 eq. | [OH-].[Na+]
reactant | benzyl chloroformate | 1565.5 mmol, 220.3 mL, 267 g, 2.1 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | 4,4′-disulfanediylbis(2-(benzyloxycarbonylamino)butanoic acid) | quantitative yield | S(SCCC(C(=O)O)NC(=O)OCC1=CC=CC=C1)CCC(C(=O)O)NC(=O)OCC1=CC=CC=C1 | C24H28N2O8S2
